US07253174B2
Synthesis of 3-{5-Amino-6-[(2,2-dimethyl-propyl)-methyl-amino]-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide
3-{6-[(2,2-Dimethyl-propyl)-methyl-amino]-5-nitro-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide (0.31 g, 0.8 mmol)) was hydrogenated under 40 psi of hydrogen pressure in the presence of 10% Pd/C for 4 hours in Parr instrument. The catalyst was filtered off through celite and the filtrate was concentrated to afford the product (0.24 g, yield 84%). MS (m/z): 357 (M+H).

reactant | 3-{6-[(2,2-Dimethyl-propyl)-methyl-amino]-5-nitro-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide | 0.8 mmol, 0.31 g | CC(CN(C1=C(C(=NC=N1)NC=1C=C(C(=O)NC)C=CC1C)[N+](=O)[O-])C)(C)C | C19H26N6O3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
product | 3-{5-Amino-6-[(2,2-dimethyl-propyl)-methyl-amino]-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide | 0.24 g, yield 84% | NC=1C(=NC=NC1N(C)CC(C)(C)C)NC=1C=C(C(=O)NC)C=CC1C | C19H28N6O
